US08802711B2
2-(3-oxocyclopentyl)isoindoline-1,3-dione
A slurry of methanol (88 mL), 2-cyclopenten-1-one (10.2 mL, 122 mmol), and phthalimide (17.9 g, 122 mmol) was stirred at ambient temperature and sodium carbonate (2M in water, 7.92 mL, 15.8 mmol) was added. After 22 hours, the thick white slurry was filtered and washed with MeOH (100 mL). Water (100 mL) was added to the wet cake, stirred for 1 hour, and filtered. The solid was washed with water (50 mL) and dried in a vacuum oven at 50° C. for 14 hours to provide the title compound (17.8 g, 78.0 mmol, 64% yield). MS (DCI) M/Z 247 [M+NH4]+.

reactant | 2-cyclopenten-1-one | 122 mmol, 10.2 mL | C1(C=CCC1)=O | C5H6O
reactant | phthalimide | 122 mmol, 17.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | sodium carbonate | 15.8 mmol, 2M, 7.92 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 88 mL | CO | CH4O
product | 2-(3-oxocyclopentyl)isoindoline-1,3-dione | 78.0 mmol, 17.8 g, 64% yield | O=C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C13H11NO3
